US05552420
n-BuLi (2.5M, 1.33 ml, 3.33 mmol) was added slowly at -78° C. to a solution of 3-methyl-thiazole (300 mg, 3.03 mmol) in 8 ml of THF under nitrogen. After stirring at -78° C. for 15 min, HMPA (1.08 g, 6.06 mmol) was added and the resulting mixture was stirred for 10 min. To the above mixture was added at -78° C. 3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propylbromide (985 mg, 3.03 mmol) in 5 ml of THF. The mixture was allowed to warm to 20° C. and stirred for 3 h. Saturated ammonium chloride solution was added and the aqueous layer was extracted with ether (3×), and the organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica column chromatography (15 cm column, ethyl acetate/hexane, 1/8-3/1) to afford 290 mg (28%) of 3-methyl-5-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]thiazole.

reactant | n-BuLi | 3.33 mmol, 2.5M, 1.33 ml | [Li]CCCC
reactant | 3-methyl-thiazole | 3.03 mmol, 300 mg | CN1CSC=C1 | C4H7NS
reactant | HMPA | 6.06 mmol, 1.08 g | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propylbromide | 3.03 mmol, 985 mg | CN1N=C(N=N1)C1=CC(=C(OCCCBr)C(=C1)C)C | C13H17BrN4O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-methyl-5-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]thiazole | 290 mg, 28% | CN1CSC(=C1)CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C17H23N5OS
